US04307239
A solution of 0.50 g (2.31 mol) of dimethyl 2-(3-tetrahydrothienylidene)malonate in 10 ml of toluene was treated with 0.32 g (2.35 mmole) of sulfuryl chloride in 1 ml of toluene under nitrogen at ice bath temperature. The mixture turned dark, and starting material could not be observed by tlc after 5 min. Nitrogen was bubbled through the solution for 5 min., and the dark color faded. Pyridine (1 ml) was added. After 15 min. at room temperature, the solution was worked up as in Example 1 and molecular distillation gave 0.45 g (93%) of dimethyl 2-(3-thienylidene)malonate, containing minor impurities by glc (SE-30, 200° ).

reactant | dimethyl 2-(3-tetrahydrothienylidene)malonate | 2.31 mol, 0.50 g | S1CC(CC1)=C(C(=O)OC)C(=O)OC | C9H12O4S
reactant | sulfuryl chloride | 2.35 mmole, 0.32 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl 2-(3-thienylidene)malonate | 0.45 g, 93% | S1CC(C=C1)=C(C(=O)OC)C(=O)OC | C9H10O4S
